US06403055B1
Into a suspension of N-[(phenylmethoxy)carbonyl]-L-tryptophan (33.27 g; 98.32 mmol), benzyltriethylammonium chloride (BTEAC) (22.4 g; 98.32 mmol) and K2CO3 (176.91 g; 1.28 mol) in dimethylacetamide (750 mL), tert-butyl bromide (265 mL; 2.36 mol) was dropped. The solution was heated to 550° C. and maintained under vigorous stirring for 19 h. The reaction was monitored by HPLC (Chromatographic method of Example 3, A)). The solution was cooled to r.t., diluted with H2O (3 L) and then extracted with EtOAc (2 L). The organic layer was washed with H2O (2 L) and, after elimination of the solvent, N-[(phenylmethoxy)carbonyl]-L-tryptophan 1,1-dimethylethyl ester (36 g) was obtained and used in the following step without further purification.

reactant | N-[(phenylmethoxy)carbonyl]-L-tryptophan | 98.32 mmol, 33.27 g | C1(=CC=CC=C1)COC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C19H18N2O4
reactant | K2CO3 | 1.28 mol, 176.91 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl bromide | 2.36 mol, 265 mL | C(C)(C)(C)Br | C4H9Br
catalyst | benzyltriethylammonium chloride | 98.32 mmol, 22.4 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dimethylacetamide | 750 mL | CC(=O)N(C)C | C4H9NO
solvent | H2O | 3 L | O | H2O
product | N-[(phenylmethoxy)carbonyl]-L-tryptophan 1,1-dimethylethyl ester | 36 g | CC(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)=O | C23H26N2O4
